US04175206
36.9 g of sodium glyoxylate, 75 g of ammonium acetate, 72 g of catechol and 130 ml of water are treated in the same manner as described in Example 1. 11.0 g of DL-(3,4-dihydroxyphenyl)glycine are thereby obtained as crystals. Yield: 18.5 g M.p. 185°-188° C. (decomp.).

reactant | sodium glyoxylate | 36.9 g | C(C=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
reactant | catechol | 72 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | water | 130 ml | O | H2O
product | (3,4-dihydroxyphenyl)glycine | OC=1C=C(C=CC1O)NCC(=O)O | C8H9NO4
